US05350762
1,2,3,4-Tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid amide
In a sealed tube was added a solution of 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid ecid ethyl ester (5.0 g, 0.014 mole) in 25 ml of absolute ethanol, followed by ammonia (30% aqueous solution, 10ml, 0.17 mole). After heating at 100° C. for five days, the mixture was cooled and the resultant tan precipitate collected and dried to give 3.0 g, m.p. 145°-148° C.

reactant | 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid | 0.014 mole, 5.0 g | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)C(=O)O | C20H19NO3
reactant | ammonia | 0.17 mole, 10ml | N | H3N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid amide | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)C(=O)N | C20H20N2O2
